US07897792B2
1-Bromomethyl-2-fluoro-3-nitrobenzene
A solution of phosphorus tribromide (4.8 mL) in anhydrous diethylether (100 mL) was added at 0° C. to a solution of (2-fluoro-3-nitrophenyl)methanol (compound 2c-1) (7.52 g, 46.3 mmol) in anhydrous diethylether (130 mL), and the mixture was stirred at 30 minutes at 0° C. The reaction mixture was then poured into ice water and extracted with ethyl acetate. The organic extract was washed in series with saturated sodium hydrogen carbonate solution, water and saturated saline, and dried over magnesium sulfate. The title compound (7.10 g, 70%) was then obtained as a brown oil.

reactant | phosphorus tribromide | 4.8 mL | P(Br)(Br)Br | Br3P
reactant | (2-fluoro-3-nitrophenyl)methanol | 46.3 mmol, 7.52 g | FC1=C(C=CC=C1[N+](=O)[O-])CO | C7H6FNO3
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | diethylether | 130 mL | C(C)OCC | C4H10O
product | 1-Bromomethyl-2-fluoro-3-nitrobenzene | 7.10 g, 70% | BrCC1=C(C(=CC=C1)[N+](=O)[O-])F | C7H5BrFNO2
